US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-lysine
The starting materials were D-glucose and L-(+)-lysine in the molar ratio 1:1. The reductive amination took place using palladium/activated carbon (10%) as a catalyst under the conditions of the above examples and yielded a colorless, wax-like product.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
catalyst | palladium | [Pd] | Pd
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-lysine | OC(CN[C@@H](CCCCN)C(=O)O)C(C(C(CO)O)O)O | C12H26N2O7
